US05559141
a) 4-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxy-3-phenylpropyl]-1H-imidazole
1-benzyl-5-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxy-3-phenylpropyl]- 1H-imidazole (3,6 g, 7,7 mmol) is dissolved in aqueous ethanol (80 ml) and 10% Pd/C (0,36 g) is added. Ammonium formate (1,95 g, 31 mmol) is added to the boiling solution. The mixture is refluxed for four hours. After the refiuxing the solvents are evaporated. 2M sodium hydroxide is added to the residue and the product is extracted into ethyl acetate, dried and the solvent is evaporated. Yield 2,7 g, 93,5%.

reactant | 1-benzyl-5-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxy-3-phenylpropyl]- 1H-imidazole | 7,7 mmol, 3,6 g | C(C1=CC=CC=C1)N1C=NC=C1CCC(C1=CC=CC=C1)(O)C1=CC=C(C=C1)C(=O)NC(C)(C)C | C30H33N3O2
reactant | Ammonium formate | 31 mmol, 1,95 g | C(=O)[O-].[NH4+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd/C | 0,36 g | [Pd] | Pd
product | 4-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxy-3-phenylpropyl]-1H-imidazole | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCC=1N=CNC1)(C1=CC=CC=C1)O | C23H27N3O2
